US04374997
Two hundred and thirty-five milligrams of 5-(p-chlorobenzoyl)-1,4-dimethyl-3-hydroxycarbonyl-pyrrole-2-acetic acid is dissolved in 5 ml of trifluoroacetic acid and the resulting solution is heated to reflux for 1.5 hours. After most of the solvent is removed in vacuo, the residue is treated with 10 ml of water. The resulting residue is filtered and dried in vacuo to give 5-(p-chlorobenzoyl)-1,4-dimethyl-pyrrole-2-acetic acid (Zomepirac) in 91% yield, m.p. 184°-185° C.

reactant | 5-(p-chlorobenzoyl)-1,4-dimethyl-3-hydroxycarbonyl-pyrrole-2-acetic acid | Two hundred and thirty-five milligrams | ClC1=CC=C(C(=O)C2=C(C(=C(N2C)CC(=O)O)C(=O)O)C)C=C1 | C16H14ClNO5
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(p-chlorobenzoyl)-1,4-dimethyl-pyrrole-2-acetic acid | 91% yield | ClC1=CC=C(C(=O)C2=C(C=C(N2C)CC(=O)O)C)C=C1 | C15H14ClNO3
